US04215195
A solution of benzyl N-(2-aminoethyl)carbamate (54 g, 0.276 mole) in ether (250 ml) and a solution of diketene (25.2 g, 0.30 mole) in ether (250 ml) were added simultaneously, dropwise, to ether (600 ml) while stirring and cooling over a 30 minute period. A white precipitate appeared. The solution was stirred 30 minutes longer, and then filtered. One recrystallization from water gave pure benzyl N-(2-acetoacetamidoethyl)carbamate (m.p.=116°-118° C.) at a yield of 90%.

reactant | benzyl N-(2-aminoethyl)carbamate | 0.276 mole, 54 g | NCCNC(OCC1=CC=CC=C1)=O | C10H14N2O2
reactant | diketene | 0.30 mole, 25.2 g | C=C1CC(=O)O1 | C4H4O2
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
product | benzyl N-(2-acetoacetamidoethyl)carbamate | yield of 90% | C(CC(=O)C)(=O)NCCNC(OCC1=CC=CC=C1)=O | C14H18N2O4
